US05011947
4-Ethyl-5,5-bis(4-fluorophenyl)-2,4-pentadienal
Butyl lithium (25.7 mL of 2.1M solution, 54 mmol) was added to a solution of N-isopropylcyclohexylamine in 30 mL tetrahydrofuran at -10° C. After stirring for 30 minutes and cooling to -40° C., N-ethylidenecyclohexamine (27 mL of 2M solution, 54 mmol) was added and the solution stirred for 30 minutes. The solution was further cooled to -70° C. and 2-ethyl-3,3-bis(4-fluorophenyl)- 2-propenal(4.9 g, 18 mmol) in 40 mL of tetrahydrofuran was added. The mixture was stirred for 5 hours and quenched with water. The mixture was extracted with diethyl ether, the extracts dried over magnesium sulfate and concentrated in vacuo. The residue was stirred with a mixture of 100 mL of benzene, 40 mL of water and 60 mL of acetic acid for 16 hours and diluted with 1.50 mL of water. The organic layer was separated, washed with saturated sodium bicarbonate solution, dried with magnesium sulfate and concentrated in vacuo. The residue was crystallized from petroleum ether to give 3.45 g of the title compound; m.p. =98°-99.5° C.

reactant | Butyl lithium | 54 mmol, 2.1M, 25.7 mL | C(CCC)[Li]
reactant | N-isopropylcyclohexylamine | C(C)(C)NC1CCCCC1 | C9H19N
reactant | 2-ethyl-3,3-bis(4-fluorophenyl)- 2-propenal | 18 mmol, 4.9 g | C(C)C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H14F2O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-Ethyl-5,5-bis(4-fluorophenyl)-2,4-pentadienal | 3.45 g | C(C)C(C=CC=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H16F2O
